US08455483B2
N-Butyl-N-(2-(2-(5-hydroxy-3-oxo-3,4-dihydro-2H-benzo[b][1,4]oxazin-8-yl)ethylamino)ethyl)-3-(3-(2-(4-(2-isopropylthiazole-4-carbonyl)-1-oxa-4,9-diazaspiro[5.5]undecan-9-yl)ethyl)phenethoxy)propanamide
N-Butyl-N-(2-(2-(5-hydroxy-3-oxo-3,4-dihydro-2H-benzo[b][1,4]oxazin-8-yl)ethylamino)ethyl)-3-(3-(2-(4-(2-isopropylthiazole-4-carbonyl)-1-oxa-4,9-diazaspiro[5.5]undecan-9-yl)ethyl)phenethoxy)propanamide Sulphate salt Modification A (Example 34a) (1.73 g) was dissolved in DCM/methanol, filtered and evaporated to dryness. The resultant gum was partitioned between sat aq bicarb (100 mL) and freshly distilled MeTHF (150 mL) and the mixture stirred vigorously for 10 mins. The organic layer was separated, washed with fresh sodium bicarbonate (×2), dried over sodium sulphate, filtered and evaporated under reduced pressure to give the title compound as a foam. Yield 1.2 g.

reactant | N-Butyl-N-(2-(2-(5-hydroxy-3-oxo-3,4-dihydro-2H-benzo[b][1,4]oxazin-8-yl)ethylamino)ethyl)-3-(3-(2-(4-(2-isopropylthiazole-4-carbonyl)-1-oxa-4,9-diazaspiro[5.5]undecan-9-yl)ethyl)phenethoxy)propanamide Sulphate salt | S(=O)(=O)(O)O.C(CCC)N(C(CCOCCC1=CC(=CC=C1)CCN1CCC2(CN(CCO2)C(=O)C=2N=C(SC2)C(C)C)CC1)=O)CCNCCC1=CC=C(C2=C1OCC(N2)=O)O
solvent | DCM methanol | C(Cl)Cl.CO
product | N-Butyl-N-(2-(2-(5-hydroxy-3-oxo-3,4-dihydro-2H-benzo[b][1,4]oxazin-8-yl)ethylamino)ethyl)-3-(3-(2-(4-(2-isopropylthiazole-4-carbonyl)-1-oxa-4,9-diazaspiro[5.5]undecan-9-yl)ethyl)phenethoxy)propanamide | C(CCC)N(C(CCOCCC1=CC(=CC=C1)CCN1CCC2(CN(CCO2)C(=O)C=2N=C(SC2)C(C)C)CC1)=O)CCNCCC1=CC=C(C2=C1OCC(N2)=O)O | C44H62N6O7S
